US05858995
A solution of 2-(3-ethoxycarbonylpropyl)-7-nitrobenzo[b]furan (1.0 g) in a mixture of aqueous 1N-sodium hydroxide (7.2 ml) and ethanol (5 ml) was stirred at 50° C. for 1 hour. The reaction mixture was diluted with water and acidified with 4N-hydrochloric acid. The separated solid was collected, washed with water and dried to give 2-(3-carboxypropyl)-7-nitrobenzo[b]furan (752 mg).

reactant | 2-(3-ethoxycarbonylpropyl)-7-nitrobenzo[b]furan | 1.0 g | C(C)OC(=O)CCCC1=CC2=C(O1)C(=CC=C2)[N+](=O)[O-] | C14H15NO5
reactant | sodium hydroxide | 7.2 ml | [OH-].[Na+]
reactant | ethanol | 5 ml | C(C)O | C2H6O
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 2-(3-carboxypropyl)-7-nitrobenzo[b]furan | 752 mg | C(=O)(O)CCCC1=CC2=C(O1)C(=CC=C2)[N+](=O)[O-] | C12H11NO5
